Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Hydromorphone
 
Attending: ___
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
___ - Cardiac catheterization
___ - Aortic valve replacement
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of aortic 
stenosist, coronary artery disease status psot multiple stents, 
iron deficiency anemia, and lung cancer status post left lower 
lobe resection. He was hospitalized at
___ in ___ with chest pain and congestive 
heart failure. He He ruled out for myocardial infarction. An 
echocardiogram demonstrated  worsening aortic stenosis with a 
calculated aortic valve area of 0.9 cm2. 
He reported frequent episodes of dizziness. He denied chest pain 
or dyspnea but has not been doing very much activity. Given the 
progression of his aortic stenosis, he was referred to ___ for 
surgical consultation. A preoperative cardiac catheterization 
demonstrated stenosis of two diagonal branches. The GI service 
was consulted due to acute on chronic anemia. 
 
Past Medical History:
Aortic Stenosis
Cervical Disc Disease
Coronary Artery Disease - LAD stents ___ and most 
recently in ___ with DES to LAD and POBA of jailed D2
Glaucoma
Heart Block Mobitz II
Hoarseness
Hyperlipidemia
Hypertension
Impaired Glucose Tolerance
Inguinal Hernia
Iron Deficiency Anemia
Lumbar Disc Disease
Lung Cancer
Middle Cerebral Artery Stenosis
Osteoarthritis
Peripheral Neuropathy
Prostate Cancer
Pulmonary Nodules
Trigger Finger

Surgery History:
Bilroth Procedure, ___
Inguinal Hernia Repair, ___
Left lower lobe resection via VATS, ___
Lumbar Disc Surgery, ___
Radical Prostatectomy, ___
 
Social History:
___
Family History:
Father - died of myocardial infarction at age ___
Brother - ___ brothers with stents
 
Physical Exam:
HR: 53 SB  BP right: 140/66  left: 144/66  RR: 18  O2 sat: 100% 
on RA
Height: 73"  Weight: 155 lbs

General: WDWN, NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x], no LAD or JVD
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade IV/VI LLSB 
radiates across entire chest
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema: none 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2+       Left: 2+
DP           Right: 2+       Left: 2+
___           Right: 2+       Left: 2+
Radial       Right: TR band  Left: 2+

Carotid Bruit: + vs murmur

 
Pertinent Results:
Cardiac Catheterization ___ at ___
Coronary angiography of this right dominant system demonstrated 
mild disease of the LMCA, mild diffuse CAD of the LAD - 
previously placed mid LAD stents are widely patent. Discrete 70% 
ostial stenosis of small jailed D1; 60% discrete ostial stenosis 
of large D2. Left Circumflex with mild diffuse disease, 
previously placed OM2 stent is widely patent. RCA with mild 
disease.

Carotid Ultrasound ___ at ___
Right ICA <40% stenosis. Left ICA <40% stenosis. 

___ 08:05AM BLOOD WBC-7.2 RBC-2.61* Hgb-8.3* Hct-24.2* 
MCV-93 MCH-31.7 MCHC-34.3 RDW-15.4 Plt ___
___ 08:05AM BLOOD ___
___ 08:05AM BLOOD Glucose-108* UreaN-13 Creat-0.8 Na-136 
K-4.2 Cl-103 HCO3-25 AnGap-12

___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 10:19 
AM 
 
  
___ ___ ___ 10:19 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for pleural effusions  
 
Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old man s/p CABG/AVR  // eval for pleural 
effusions  eval for pleural effusions 
  
IMPRESSION:  
  
In comparison with the study of ___, and there is again 
enlargement of the cardiac silhouette there bilateral pleural 
effusions and compressive atelectasis, more prominent on the 
left.  Otherwise, little change.   

TEE: ___:

Conclusions  
PRE-BYPASS: The left atrium is moderately dilated. No 
spontaneous echo contrast or thrombus is seen in the body of the 
left atrium or left atrial appendage. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
and cavity size are normal. Overall left ventricular systolic 
function is low normal (LVEF 50-55%). Right ventricular chamber 
size and free wall motion are normal. The ascending, transverse 
and descending thoracic aorta are normal in diameter and free of 
atherosclerotic plaque to XX cm from the incisors. There are 
simple atheroma in the aortic root. There are simple atheroma in 
the ascending aorta. There are three aortic valve leaflets. The 
aortic valve leaflets are severely thickened/deformed. There is 
very severe aortic valve stenosis (Vmax ___ or mean gradient 
>=60mmHg; valve area <1.0cm2). Mild (1+) aortic regurgitation is 
seen. The mitral valve leaflets are moderately thickened. Mild 
(1+) mitral regurgitation is seen. There is no pericardial 
effusion. 

POST CPB:
1. Preserved bi-ventricular function
2. A tri-leaflet bioprosthetic valve is seen in the aortic 
position. Well seated and stable with good leaflet excursion. 
Trce perivalvular aortic regurgitaation between the right and 
non-voronary cusps.
3. No other change
3. No appreciable gradient across the valve   
   

 
Brief Hospital Course:
He was admitted on ___ for cardiac catheterization. Given 
his history of recent acute on chronic anemia, he was seen by 
the GI service. He was cleared for surgery will follow up as an 
outpatient for a colonscopy. He was taken to the operating room 
on ___. He underwent aortic valve replacement and ____. 
Please see operative note for full details. He tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from inotropic and vasopressor 
support. Beta blocker was initiated and he was diuresed toward 
his preoperative weight. He remained hemodynamically stable and 
was transferred to the telemetry floor for further recovery.  He 
was evaluated by the physical therapy service for assistance 
with strength and mobility. By the time of discharge on POD 6 he 
needed assistance with ambulation, the wound was healing, and 
pain was controlled with oral analgesics. He was discharged to 
___ on POD#6 in good condition with appropriate follow 
up instructions.  Had intermittent atrial fibrillation and was 
anticoagulated with coumadin.  
 
Medications on Admission:
Aspirin 325 mg tablet once a day
Brimonidine 0.2 % eye drops, 1 drop OS twice a day
Citalopram 20 mg tablet once a day
Colace 100 mg capsule Qhs
Dorzolamide 2 % eye drops, 1 drop left eye three times a day 
Ferrous Sulfate
Folic Acid 1 mg tablet once a day
Furosemide 20 mg tablet once a day
Latanoprost 0.005 % eye drops, 1 drop OS QPM
Metoprolol Tartrate 25 mg tablet twice a day
Multivitamin 1 tablet once a day
Nitroglycerin 0.4 mg SL tablet prn chest pain 
Potassium Chloride 10 mEq once a day
Preservision Areds 
Simvastatin 20 mg tablet once a day 
Sulfasalazine 500 mg tablet twice a day
Vitmain C
 
Discharge Medications:
1. Acetaminophen 650 mg PO/PR Q4H:PRN temperature >38.0 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP LEFT EYE Q8H 
5. Citalopram 20 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Dorzolamide 2% Ophth. Soln. 1 DROP LEFT EYE TID 
8. FoLIC Acid 1 mg PO DAILY 
9. Furosemide 40 mg PO DAILY Duration: 7 Days 
10. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
11. Metoprolol Tartrate 37.5 mg PO TID 
12. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0
13. Potassium Chloride 20 mEq PO BID 
14. SulfaSALAzine_ 500 mg PO BID 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*50 Tablet Refills:*0
16. Warfarin 2 mg PO DAILY16 
titrate for INR goal ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Aortic Stenosis
Cervical Disc Disease
Coronary Artery Disease - LAD stents ___ and most 
recently in ___ with DES to LAD and POBA of jailed D2
Glaucoma
Heart Block Mobitz II
Hoarseness
Hyperlipidemia
Hypertension
Impaired Glucose Tolerance
Inguinal Hernia
Iron Deficiency Anemia
Lumbar Disc Disease
Lung Cancer
Middle Cerebral Artery Stenosis
Osteoarthritis
Peripheral Neuropathy
Prostate Cancer
Pulmonary Nodules
Trigger Finger

Surgery History:
___ Procedure, ___
Inguinal Hernia Repair, ___
Left lower lobe resection via VATS, ___
Lumbar Disc Surgery, ___
Radical Prostatectomy, ___

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___